US03981866
Phenylmalonic acid (12.6 g; 0.07 M) and thionyl chloride (5.2 ml.; 0.07 M) were heated under reflux for 2 hrs. in anhydrous ether (50 ml.) containing 1-2 drops of dimethylformamide. At the end of this period the solvent and any remaining thionyl chloride were removed in vacuo. The oily residue was dissolved in anhydrous ether (75 ml.), o-phthalaldehydic acid (10.5g; 0.07 M) was added in one portion and the mixture heated under reflux for 2 hrs. The yellow reaction solution was cooled to ambient temperatures and extracted with saturated sodium bicarbonate solution (150 ml.) and the bicarbonate solution quickly washed with ether (100 ml.) and acidified to pH 1.0 with 5N hydrochloric acid (NB the bicarbonate layer should be made acidic as quickly as possible due to the lability of the phthalide ester group at alkaline pH values). A yellow oil precipitated out of the acidic solution and it was extracted into methylene dichloride (2×100 ml.) and the organic extracts were washed with water (2×100 ml.) and dried over anhydrous magnesium sulphate. Upon concentrating the dried methylene solution in vacuo to ca. 1/4 volume the product crystallised as a white solid (6.0g.), m.p. 130°-131°. A second crop was obtained (4.6g.) m.p. 128°-130°, representing a total yield of 48.5%. i.r. (KBr) strong bands inter alia at: 1770cm-1 1700 cm-1 1420 cm-1 1275 cm-1 1265 cm- 1 1215 cm-1 1145 cm-1 1050 cm-1 960 cm-1 750 cm-1 695 cm-1 n.m.r. [(CD3)2CO/D2O]: δ= 7.9-7.3 (1 OH. multiplet. phenyl and phthalide aromatics and ##EQU4## δ= 4.97(1H.s. ##EQU5## Upon standing a third peak developed at δ= 3.83 which is the methylene group in phthalide phenyl acetate formed by decarboxylation of phthalide hydrogen phenylmalonate.

reactant | Phenylmalonic acid | 0.07 M, 12.6 g | C1(=CC=CC=C1)C(C(=O)O)C(=O)O | C9H8O4
reactant | thionyl chloride | 0.07 M, 5.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | KBr | [K+].[Br-]
reactant | phthalide | C1(=O)OCC2=CC=CC=C12 | C8H6O2
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | dimethylformamide | 1-2 drops | CN(C=O)C | C3H7NO
solvent | phthalide phenyl acetate | C1(=CC=CC=C1)CC(=O)O.C1(=O)OCC2=CC=CC=C12
product | phthalide hydrogen phenylmalonate | yield of 48.5% | C1(=CC=CC=C1)C(C(=O)O)C(=O)O.C1(=O)OCC2=CC=CC=C12 | InChI=1S/C9H8O4.C8H6O2/c10-8(11)7(9(12)13)6-4-2-1-3-5-6;9-8-7-4-2-1-3-6(7)5-10-8/h1-5,7H,(H,10,11)(H,12,13);1-4H,5H2
